US05594024
Cis -2-Methyl-4-(3-hydroxyphenyl)-N-n-propylpyrrolidine. (Racemic-cis-77)
2-Methyl-4-(3-methoxyphenyl)-N-n-propylpyrrolidine (cis and trans mixture 85: 15, 920 mg, 3.95 mmol) was dissolved in 47% hydrobromic acid (20 mL) and heated at reflux temperature for 1.5 hours. The mixture was made alkaline by the addition of 10% sodium carbonate (75 mL) and the product extracted with diethyl ether and ethyl acetate (1:1,3×20 mL). Drying (MgSO4) afforded 840 mg of the crude product as a white solid. Chromatography on a SiO2HPLC column yielded 601 mg of the title compound.: m.p. 123°-24° C.; MS (EI) m/e calc'd for C14H21NO: 219.162, found 219.163; 219.15 (10, M+), 204.05 (47), 191.05 (14), 190.05 (100), 161.05 (6), 133.05 (6), 106.95 (8), 90.95 (6), 84.05 (12).

reactant | 2-Methyl-4-(3-methoxyphenyl)-N-n-propylpyrrolidine | 3.95 mmol, 920 mg | CC1N(CC(C1)C1=CC(=CC=C1)OC)CCC | C15H23NO
reactant | sodium carbonate | 75 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrobromic acid | 20 mL | Br | BrH
product | Cis -2-Methyl-4-(3-hydroxyphenyl)-N-n-propylpyrrolidine | 601 mg | C[C@@H]1N(C[C@@H](C1)C1=CC(=CC=C1)O)CCC | C14H21NO
